US05438052
Methyl 2-(acetoxymethyl)-7-chloro-s-triazolo[1,5-a]pyrimidine-5-carboxylate (370 mg) (1.3 mmol) are dissolved in 10 ml of methanol. After the addition of 289 mg (3.9 mmol) of sodium hydrogen sulphide hydrate the mixture is stirred at 60° C. for 4 hours. The yellow solution is concentrated in a vacuum. The residue is dissolved in water and the product is precipitated at pH 3 with 3N aqueous hydrochloric acid. The precipitate is filtered off under suction and crystallized from methanol. There are obtained 360 mg of methyl 2-(acetoxymethyl)-7-mercapto-s-triazolo[1,5-a]pyrimidine-5-carboxylate.

reactant | Methyl 2-(acetoxymethyl)-7-chloro-s-triazolo[1,5-a]pyrimidine-5-carboxylate | 1.3 mmol, 370 mg | C(C)(=O)OCC1=NN2C(N=C(C=C2Cl)C(=O)OC)=N1 | C10H9ClN4O4
reactant | sodium hydrogen sulphide hydrate | 3.9 mmol, 289 mg | O.S.[Na]
solvent | methanol | 10 ml | CO | CH4O
product | methyl 2-(acetoxymethyl)-7-mercapto-s-triazolo[1,5-a]pyrimidine-5-carboxylate | 360 mg | C(C)(=O)OCC1=NN2C(N=C(C=C2S)C(=O)OC)=N1 | C10H10N4O4S
